US06562823B1
Step A: Preparation of 2.5-di-[(Methanesulfonyl)oxy]benzaldehyde
To a solution of 2,5-dihydroxybenzaldehyde (8.22 g, 59.5 mmol) in 100 mL of dichloromethane at 0° C. was added triethylamine (24.8 mL, 178 mmol), followed by dropwise addition of methanesulfonyl chloride (10.1 mL, 130 mmol). After 30 minutes, the solution was concentrated in vacuo, then partitioned between EtOAc and saturated NaHCO3 solution. The organic layer was washed with water and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The product was isolated as a brown oil which was used without further purification.

reactant | 2,5-dihydroxybenzaldehyde | 59.5 mmol, 8.22 g | OC1=C(C=O)C=C(C=C1)O | C7H6O3
reactant | triethylamine | 178 mmol, 24.8 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 130 mmol, 10.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2.5-di-[(Methanesulfonyl)oxy]benzaldehyde | CS(=O)(=O)OC1=C(C=O)C=C(C=C1)OS(=O)(=O)C | C9H10O7S2
